US04409214
To a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (6.4 g) and trimethylsilylacetamide (9.8 g) in ethyl acetate (80 ml) was added 4-bromo-3,3-diethoxy-2-methoxyiminobutyryl chloride (syn isomer) (5.0 g) at -20° C. with stirring, and the stirring was continued at -20° to -5° C. for an hour. To the reaction mixture were added ethyl acetate and water, and the separated ethyl acetate solution was washed with a saturated aqueous sodium bicarbonate and an aqueous sodium chloride, followed by drying over anhydrous magnesium sulfate. Removal of the solvent gave benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate (syn isomer) (10.1 g).

reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 6.4 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 9.8 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 4-bromo-3,3-diethoxy-2-methoxyiminobutyryl chloride | 5.0 g | BrCC(C(C(=O)Cl)=NOC)(OCC)OCC | C9H15BrClNO4
reactant | water | O | H2O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate | 10.1 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)(OCC)OCC | C31H34BrN3O7S
